US08426411B2
To a solution of tert-butyl 2-ethyl-4-(hydroxymethyl)cyclopentanecarboxylate (0.220 g, 0.964 mmol) in DCM (5 mL) was added TEA (0.16 mL, 1.15 mmol) and methanesulfonyl chloride (0.083 mL, 1.06 mmol) at about 0° C. The reaction mixture was allowed to warm to about 25° C. and stirred at about 25° C. for about 16 h. The reaction mixture was partitioned between water (20 mL) and DCM (20 mL). The aqueous solution was washed with DCM (2×20 mL). The combined organic extracts were dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give tert-butyl 2-ethyl-4-((methylsulfonyloxy)methyl)cyclopentanecarboxylate (0.295 g, 100%): LC/MS (Table 1, Method b) Rt=2.55 min; MS m/z: 307 (M+H)+.

reactant | tert-butyl 2-ethyl-4-(hydroxymethyl)cyclopentanecarboxylate | 0.964 mmol, 0.220 g | C(C)C1C(CC(C1)CO)C(=O)OC(C)(C)C | C13H24O3
reactant | methanesulfonyl chloride | 1.06 mmol, 0.083 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-ethyl-4-((methylsulfonyloxy)methyl)cyclopentanecarboxylate | 0.295 g, 100% | C(C)C1C(CC(C1)COS(=O)(=O)C)C(=O)OC(C)(C)C | C14H26O5S
